** INV_tb
Vdd Vdd 0 3.3
Vin Vin 0 dc pulse(0 3.3 0 50p 50p 150p 300p)
X1 Vdd Vout Vin 0 INV

.measure tran tphl TRIG v(Vin) VAL={0.5*3.3} RISE=2 TARG v(Vout) VAL={0.5*3.3} FALL=2
.measure tran tplh TRIG v(Vin) VAL={0.5*3.3} FALL=1 TARG v(Vout) VAL={0.5*3.3} RISE=1
.measure tran tpd param = {(tplh+tphl)/2}

.STEP TEMP {{temp}} -60 200
.tran 5p 800p
.print tran FORMAT=CSV file={{run_path}}/simulation/inv_W{{width}}_L{{length}}_T{{temp}}_{{corner}}.csv {tpd}


.include "../../design.spice"
.lib "../../sm141064.spice" {{corner}}


.subckt INV  VDD Vout Vin GND
XM1 Vout Vin GND GND nfet_03v3 W={{width}}u L={{length}}u 
*ad={{AD}}u pd={{PD}}u as={{AS}}u ps={{PS}}u
XM2 Vout Vin VDD VDD pfet_03v3 W={{width_p}}u L={{length}}u 
*ad={{AD_p}}u pd={{PD_p}}u as={{AD_p}}u ps={{PD_p}}u
.ends

.end
